US07863441B2
c. [2-(2-acetamino-phenylsulfanyl)-phenyl]-{4(2-(2-acetoxyethoxy)ethyl]-piperazin-1-yl}methanone
[2-(2-amino-phenylsulfanyl)-phenyl]-{4(2-(2-hydroxyethoxy)ethyl]piperazin-1-yl}methanone (10.7 g, 0.027 mol) was dissolved in ethyl acetate (50 ml) and triethylamine (7.4 ml) was added into reaction mixture. Acetic anhydride (7.6 ml, 0.081 mol) was slowly added to the reaction mixture at room temperature. After 4 h, the reaction mixture was evaporated to give a dark blue oil which was dissolved in ethyl acetate (50 ml) and washed with 2×25 ml saturated NaHCO3 solution and once with brine. The organic phase was evaporated to give a brown oil (10.9 g). The residue of [2-(2-acetamino-phenylsulfanyl)-phenyl-{4(2-(2-acetoxyethoxy)ethyl]-piperazin-1-yl}methanone was used further without purification.

reactant | [2-(2-amino-phenylsulfanyl)-phenyl]-{4(2-(2-hydroxyethoxy)ethyl]piperazin-1-yl}methanone | 0.027 mol, 10.7 g | NC1=C(C=CC=C1)SC1=C(C=CC=C1)C(=O)N1CCN(CC1)CCOCCO | C21H27N3O3S
reactant | triethylamine | 7.4 ml | C(C)N(CC)CC | C6H15N
reactant | Acetic anhydride | 0.081 mol, 7.6 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | [2-(2-acetamino-phenylsulfanyl)-phenyl]-{4(2-(2-acetoxyethoxy)ethyl]-piperazin-1-yl}methanone | 10.9 g | N(C(=O)C)C1=C(C=CC=C1)SC1=C(C=CC=C1)C(=O)N1CCN(CC1)CCOCCOC(C)=O | C25H31N3O5S
